US08476434B2
To 4-cyclohexyl-2-isocyanato-1-methoxy-benzene (56 mg, 0.24 mmol) in toluene (3.0 mL) was added {4-[2-(4-amino-2-methyl-phenoxy)-pyridin-3-yl]-pyrimidin-2-yl}-methyl-amine (46 mg, 0.15 mmol). The mixture was stirred overnight at RT, concentrated and purified by preparative TLC (50% EtOAc/CH2Cl2) to yield N-(5-cyclohexyl-2-(methyloxy)phenyl)-N′-(3-methyl-4-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)urea. MS m/z=539 [M+1]+. Calc'd for C31H34N6O3: 538.66.

reactant | 4-cyclohexyl-2-isocyanato-1-methoxy-benzene | 0.24 mmol, 56 mg | C1(CCCCC1)C1=CC(=C(C=C1)OC)N=C=O | C14H17NO2
reactant | {4-[2-(4-amino-2-methyl-phenoxy)-pyridin-3-yl]-pyrimidin-2-yl}-methyl-amine | 0.15 mmol, 46 mg | NC1=CC(=C(OC2=NC=CC=C2C2=NC(=NC=C2)NC)C=C1)C | C17H17N5O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-(5-cyclohexyl-2-(methyloxy)phenyl)-N′-(3-methyl-4-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)urea | C1(CCCCC1)C=1C=CC(=C(C1)NC(=O)NC1=CC(=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)C)OC | C31H34N6O3
